US06555560B2
3-{1-(2,3,8,9-Tetrahydro-7H-[1,4]dioxino[2,3-h]chromen-2-ylmethyl)-1,2,3,6-tetrahydropyridin-4-yl}-1H-indole
To a mixture of (2R)-2,3,8,9-tetrahydro-7H-[1,4]dioxino[2,3-h]chromen-2-yl-methyl 4-methylbenzenesulfonate (0.30 g, 0.80 mmole) and potassium carbonate (0.22 g, 1.55 mmole) in 1:1 tetrahydrofuran/dimethylformamide (20 mL) was added 0.47 g (2.38 mmole) of 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole. The reaction mixture was refluxed under nitrogen for 6 hours. After the reaction was complete, the mixture was evaporated to dryness under reduced pressure and the residue was column chromatographed on silica gel with methylene chloride to remove impurities and with 3% methanol/methylene chloride to elute the desired product as an as an oil, which was crystallized from isopropanol with the addition of a solution of oxalic acid in hot isopropanol to give 0.070 g (6%) of the (S)-enantiomer of the title compound as an orange solid, m.p. 140° C.

reactant | (2R)-2,3,8,9-tetrahydro-7H-[1,4]dioxino[2,3-h]chromen-2-yl-methyl 4-methylbenzenesulfonate | 0.80 mmole, 0.30 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=CC=3CCCOC23)OC1 | C19H20O6S
reactant | potassium carbonate | 1.55 mmole, 0.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 2.38 mmole, 0.47 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
solvent | tetrahydrofuran dimethylformamide | 20 mL | O1CCCC1.CN(C=O)C
product | 3-{1-(2,3,8,9-Tetrahydro-7H-[1,4]dioxino[2,3-h]chromen-2-ylmethyl)-1,2,3,6-tetrahydropyridin-4-yl}-1H-indole | O1C(COC=2C=CC=3CCCOC3C21)CN2CCC(=CC2)C2=CNC1=CC=CC=C21 | C25H26N2O3
